US07125901B2
To a solution of N-{4-[2-(4-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}phenyl)ethyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide (116.8 mg) in N,N-dimethylformamide (1.1 ml) was added methylhydrazine (11.9 μl) under N2 atmosphere, and the mixture was stirred at 20° C. for 4 hrs. The reaction mixture was concentrated in vacuo. Ethyl acetate was added to the residue, and the precipitate was filtered off. The filtrate was concentrated in vacuo to give a crude yellow solid (105.1 mg). The crude material was purified by preparative thin-layer chromatography over silica gel with chloroform/methanol (30:1) as an eluent to give a pale yellow powder. The obtained powder was washed with acetonitrile, and the precipitate was collected by filtration to give N-(4-(2-{4-[(aminooxy)methyl]phenyl}ethyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl)acetamide (8.4 mg) as a white solid.

reactant | N-{4-[2-(4-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}phenyl)ethyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | 116.8 mg | O=C1N(C(C2=CC=CC=C12)=O)OCC1=CC=C(C=C1)CCC=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C29H25N3O6S2
reactant | methylhydrazine | 11.9 μl | CNN | CH6N2
solvent | N,N-dimethylformamide | 1.1 ml | CN(C=O)C | C3H7NO
product | N-(4-(2-{4-[(aminooxy)methyl]phenyl}ethyl)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl)acetamide | 8.4 mg | NOCC1=CC=C(C=C1)CCC=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H23N3O4S2
